US04480114
2.45 g (0.045 mol) of sodium methylate are dissolved in 20 ml of methanol, and 5.25 g (0.077 mol) of imidazole are added. A solution of 11.1 g (0.077 mol) of 1-(4-biphenylyl)-2-chloro-1-phenyl-ethanol in 50 ml of dimethylformamide is added dropwise to this mixture and the reaction mixture is heated under reflux for 16 hours. Thereafter, it is poured onto water and the crystals which form are extracted with hot acetonitrile. 3.2 g (21% of theory) of 1-(4-biphenylyl)-2-(imidazol-1-yl)-1-phenyl-ethanol of melting point 224° C. are obtained.

reactant | sodium methylate | 0.045 mol, 2.45 g | C[O-].[Na+]
reactant | imidazole | 0.077 mol, 5.25 g | N1C=NC=C1 | C3H4N2
reactant | 1-(4-biphenylyl)-2-chloro-1-phenyl-ethanol | 0.077 mol, 11.1 g | C1(=CC=C(C=C1)C(CCl)(O)C1=CC=CC=C1)C1=CC=CC=C1 | C20H17ClO
solvent | methanol | 20 ml | CO | CH4O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-(4-biphenylyl)-2-(imidazol-1-yl)-1-phenyl-ethanol | 3.2 g, 21% | C1(=CC=C(C=C1)C(CN1C=NC=C1)(O)C1=CC=CC=C1)C1=CC=CC=C1 | C23H20N2O
